US05686470
2-Methoxy-6-(4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]pyridine-3-carbonitrile
2-Chloro-6-(4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]pyridine-3-carbonitrile (Example ε(100 mg, 0.25 mMol) was added to freshly prepared sodium methoxide (0.27 mMol) in methanol and stirred at room temperature for 22 hours and then at 75° C. for 4 hours. The reaction solution was concentrated and the product was purified by silica gel chromatography to give a white solid. Anal. Calc'd. for C21H18N2O4S (394.45): C, 63.95; H, 4.60; N, 7.10. Found: C, 63.80; H, 4.71; N, 6.94.

reactant | 2-Chloro-6-(4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]pyridine-3-carbonitrile | ClC1=NC(=C(C=C1C#N)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)OC | C20H15ClN2O3S
reactant | sodium methoxide | 0.27 mMol | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-Methoxy-6-(4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]pyridine-3-carbonitrile | COC1=NC(=C(C=C1C#N)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)OC | C21H18N2O4S
